US09302988B2
Step 1: Ethyl 1-(3-chlorobenzyl)-3-(4-chlorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate
KOt-Bu (265 mg, 2.36 mmol) and 18-crown-6 (catalytic amount) were added to ethyl 3-(4-chlorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate [for synthesis see ACI-06] (500 mg, 1.57 mmol) in dry THF (5 mL). The reaction mixture was stirred for 30 min. and 1-(bromomethyl)-3-chlorobenzene (647 mg, 3.15 mmol) was added to the reaction mixture. The reaction mixture was stirred at reflux temperature overnight. The reaction mixture was acidified with aqueous 1M KHSO4 (4 mL), diluted with H2O (4 mL) and extracted with EtOAc (50 mL). The organic layer was washed with brine, dried (Na2SO4), and concentrated to give crude product as a colourless oil (732 mg).

reactant | KOt-Bu | 2.36 mmol, 265 mg | CC(C)(C)[O-].[K+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | ethyl 3-(4-chlorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate | ClC1=CC=C(C=C1)C1=C(NC(=C1)C(F)(F)F)C(=O)OCC | C14H11ClF3NO2
reactant | 1-(bromomethyl)-3-chlorobenzene | 3.15 mmol, 647 mg | BrCC1=CC(=CC=C1)Cl | C7H6BrCl
reactant | KHSO4 | 1M, 4 mL | OS(=O)(=O)[O-].[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | 4 mL | O | H2O
product | Ethyl 1-(3-chlorobenzyl)-3-(4-chlorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate | 732 mg | ClC=1C=C(CN2C(=C(C=C2C(F)(F)F)C2=CC=C(C=C2)Cl)C(=O)OCC)C=CC1 | C21H16Cl2F3NO2
